US04179569
To a stirred mixture of 13.8 parts of lithium and 140 parts of 1,1'-oxybisethane is added dropwise a mixture of 156 parts of iodomethane and 140 parts of 1,1'-oxybisethane while nitrogen gas is introduced. After the addition is complete, there are added 420 parts of 1,1'-oxybisethane and stirring is continued at reflux temperature till all lithium has reacted (about 15 minutes). Then there are added portionwise 26.25 parts of 1-(1-methylethyl)-4-(phenylamino)-4-piperidinecarboxylic acid (exothermic reaction: reflux temperature is maintained) while nitrogen gas is still introduced. Upon completion, stirring at reflux is continued for 1.50 hours. After the nitrogen gas introduction is stopped, the reaction mixture is cooled to 5° C. and decomposed by pouring onto 600 parts of water. The organic phase is separated, washed with water, dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume), saturated with ammonia, as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from petroleumether at 0° C. The product is filtered off and dried, yielding 8.7 parts (33.5%) of 1-[1-(1-methylethyl)-4-(phenylamino)-4-piperidinyl]ethanone; mp. 107.1° C.

reactant | lithium | [Li] | Li
reactant | 1,1'-oxybisethane | O(CC)CC | C4H10O
reactant | iodomethane | IC | CH3I
reactant | 1-(1-methylethyl)-4-(phenylamino)-4-piperidinecarboxylic acid | CC(C)N1CCC(CC1)(C(=O)O)NC1=CC=CC=C1 | C15H22N2O2
solvent | water | O | H2O
product | 1-[1-(1-methylethyl)-4-(phenylamino)-4-piperidinyl]ethanone | 33.5% | CC(C)N1CCC(CC1)(NC1=CC=CC=C1)C(C)=O | C16H24N2O
